US06531476B1
Working again according to a protocol identical to the one used in step 1.3 of Example 1, followed by treating, under the same conditions as those of step 1.4 of Example 1, 0.5 g (1.73 mmol) of 2-(N,N-diethylaminocarbonyloxymethyl)piperazine hydrochloride with 1 g of 3,4,5-trimethoxybenzoyl chloride, 0.83 g of 1,4-bis(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine is obtained. Yield: 80%. Melting point: 128.6° C. Rf=0.35 (3/97 v/v MeOH/CH2Cl2).

reactant | 2-(N,N-diethylaminocarbonyloxymethyl)piperazine hydrochloride | 1.73 mmol, 0.5 g | Cl.C(C)N(CC)C(=O)OCC1NCCNC1
reactant | 3,4,5-trimethoxybenzoyl chloride | 1 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 1,4-bis(3′,4′,5′-trimethoxybenzoyl)-2-(N,N-diethylaminocarbonyloxymethyl)piperazine | 0.83 g, Yield: 80% | COC=1C=C(C(=O)N2C(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)COC(=O)N(CC)CC)C=C(C1OC)OC | C30H41N3O10
